US06930100B2
Step B. (S)-3-(5-Chloro-2-methoxy-phenyl)-1-chloromethyl-3-fluoro-6-trifluoromethyl-1,3-dihydro-indol-2-one ((S)-V)
To a solution of (S)-3-(5-chloro-2-methoxy-phenyl)-3-fluoro-1-hydroxymethyl-6-trifluoromethyl-1,3-dihydro-indol-2-one ((S)-IV) (64.5 g, 0.166 mol) in CH2Cl2 (700 mL) was added PCI3 (2.0 M in CH2Cl2, 255.0 mL, 0.510 mol) dropwise at 0° C. under N2 over a period of 50 minutes. The resultant mixture was warmed to room temperature and the stirring continued overnight (16 h). The mixture was quenched with ice at 0° C. and the resultant mixture was stirred vigorously for 30 minutes. The organic layer was separated and the aqueous layer was washed with CH2Cl2. The combined organic layer was washed with brine and dried over Na2SO4. Chromatography (silica gel, EtOAc/Hexanes) provided the title compound as a white dry foam (42.0 g, 62% yield). 1H NMR (CDCl3): δ 3.55 (s, 3H), 5.39 (d, J=10.5 Hz, 1H), 5.95 (d, J=11.0 Hz, 1H), 6.76 (dd, J=1.5, 9.0 Hz, 1H), 7.28 (m, 2H), 7.35 (dd, J=1.5, 9.0 Hz, 1H), 7.40 (d, J=8.0 Hz, 1H), 7.78 (dd, J=1.0, 2.5 Hz, 1H).

reactant | (S)-3-(5-chloro-2-methoxy-phenyl)-3-fluoro-1-hydroxymethyl-6-trifluoromethyl-1,3-dihydro-indol-2-one | 0.166 mol, 64.5 g | ClC=1C=CC(=C(C1)[C@@]1(C(N(C2=CC(=CC=C12)C(F)(F)F)CO)=O)F)OC | C17H12ClF4NO3
reactant | CH2Cl2 | 700 mL | C(Cl)Cl | CH2Cl2
product | (S)-3-(5-Chloro-2-methoxy-phenyl)-1-chloromethyl-3-fluoro-6-trifluoromethyl-1,3-dihydro-indol-2-one | ClC=1C=CC(=C(C1)[C@@]1(C(N(C2=CC(=CC=C12)C(F)(F)F)CCl)=O)F)OC | C17H11Cl2F4NO2
